US07705007B2
2-{4-[(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-(3-ethoxy-thiophen-2-yl)-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with N-tert-butyl-2-piperazin-1-yl-acetamide dihydrochloride to give 2-{4-[(4S,5R)-4,5-bis-(4-chloro-phenyl)-2-(3-ethoxy-thiophen-2-yl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-N-tert-butyl-acetamide in an analogous manner as described in example 1. LR-MS: 642.3 [(M+H)+]

reactant | (4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-(3-ethoxy-thiophen-2-yl)-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)[C@@H]1N=C(N([C@@H]1C1=CC=C(C=C1)Cl)C(=O)Cl)C=1SC=CC1OCC | C22H17Cl3N2O2S
reactant | N-tert-butyl-2-piperazin-1-yl-acetamide dihydrochloride | Cl.Cl.C(C)(C)(C)NC(CN1CCNCC1)=O
product | 2-{4-[(4S,5R)-4,5-bis-(4-chloro-phenyl)-2-(3-ethoxy-thiophen-2-yl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-N-tert-butyl-acetamide | ClC1=CC=C(C=C1)[C@@H]1N=C(N([C@@H]1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(=O)NC(C)(C)C)C=1SC=CC1OCC | C32H37Cl2N5O3S
